US08877782B2
6-[3-(3,4-Difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(2-hydroxy-2-methyl-propyl)-nicotinamide
As described for example 125f, 6-[3-(3,4-difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (200 mg, 0.56 mmol) was converted, using 1-amino-2-methyl-propan-2-ol instead of 2,2,2-trifluoroethylamine, to the title compound (40 mg, 17%) which was obtained as a colourless oil. MS: m/e=418.3 [M+H]+.

reactant | 6-[3-(3,4-difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.56 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=C(C=C1)F)F)=O | C18H14F2N2O4
reactant | 1-amino-2-methyl-propan-2-ol | NCC(C)(O)C | C4H11NO
product | 6-[3-(3,4-Difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(2-hydroxy-2-methyl-propyl)-nicotinamide | 40 mg, 17% | FC=1C=C(C=CC1F)C1=NOC(=C1COC1=NC=C(C(=O)NCC(C)(C)O)C=C1)C | C21H21F2N3O4
